US04584290
To a solution of benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate-1-oxide (12 g) in N,N-dimethylformamide (96 ml) was added phosphorus trichloride (0.48 ml) at -20° C. and the resultant mixture was stirred at -20° C. to -10° C. for 10 minutes. After water and ethyl acetate were added to the reaction mixture, the separated organic layer was washed with water and brine, dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate (1.15 g).

reactant | benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate-1-oxide | 12 g | C(=O)NC1[C@@H]2N(C(=C(CS2=O)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N2O5S
reactant | phosphorus trichloride | 0.48 ml | P(Cl)(Cl)Cl | Cl3P
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 96 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-formamido-3-ethynyl-3-cephem-4-carboxylate | 1.15 g | C(=O)NC1[C@@H]2N(C(=C(CS2)C#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H18N2O4S
